US05536725
This compound is prepared in a manner analogous to that of Step B of Example 6, using 22.1 grams (0.09 mole) of the Grignard reagent of 8-bromo-1,4-dioxaspiro[4.5]decane and 17.4 grams (0.10 mole) of 3-trifluoromethylbenzaldehyde in tetrahydrofuran. Upon completion of the reaction, the reaction mixture is poured into a mixture of 100 grams of ice, 100 mL of an aqueous solution saturated with ammonium chloride, and 200 mL of diethyl ether. This mixture is filtered and the organic layer is separated. The organic layer is concentrated under reduced pressure, yielding [(1,4-dioxaspiro[4.5]decan-8-yl) (3-trifluoromethylphenyl)]methanol. Step D Synthesis of phenylmethyl [(1,4-dioxaspiro[4.5]decan-8-yl)(3-trifluoromethylphenyl)]methyl ether as an intermediate

reactant | 8-bromo-1,4-dioxaspiro[4.5]decane | BrC1CCC2(OCCO2)CC1 | C8H13BrO2
reactant | 3-trifluoromethylbenzaldehyde | 0.10 mole, 17.4 grams | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [(1,4-dioxaspiro[4.5]decan-8-yl) (3-trifluoromethylphenyl)]methanol | O1CCOC12CCC(CC2)C2=C(C=CC=C2C(F)(F)F)CO | C16H19F3O3
